* Extracted by KLayout with SG13G2 LVS runset on : 24/03/2026 03:36

.SUBCKT buff_PI_d32 VSS VDD VOUT VIN
X$1 VSS VDD \$6 \$8 inv_PI_d16
X$2 VSS VDD VIN \$6 buff_PI_d16
X$3 VOUT \$8 VSS VDD inv_PI_d32
.ENDS buff_PI_d32

.SUBCKT inv_PI_d32 VOUT VIN VSS VDD
X$1 VSS VDD VIN VOUT inv_PI_d16
X$2 VSS VDD VIN VOUT inv_PI_d16
.ENDS inv_PI_d32

.SUBCKT buff_PI_d16 VSS VDD VIN VOUT
X$1 VSS VDD \$13 VOUT inv_PI_d16
X$2 \$9 \$13 VSS VDD inv_PI_d8
X$3 \$6 \$9 VSS VDD inv_PI_d4
X$4 VSS VIN \$6 VDD inv_PI_d2
.ENDS buff_PI_d16

.SUBCKT inv_PI_d16 VSS VDD VIN VOUT
X$1 VIN VOUT VSS VDD inv_PI_d8
X$2 VIN VOUT VSS VDD inv_PI_d8
.ENDS inv_PI_d16

.SUBCKT inv_PI_d8 VIN VOUT VSS VDD
X$1 VIN VOUT VSS VDD inv_PI_d4
X$2 VIN VOUT VSS VDD inv_PI_d4
.ENDS inv_PI_d8

.SUBCKT inv_PI_d4 VIN VOUT VSS VDD
X$1 VSS VIN VOUT VDD inv_PI_d2
X$2 VSS VIN VOUT VDD inv_PI_d2
.ENDS inv_PI_d4

.SUBCKT inv_PI_d2 VSS VIN VOUT VDD
X$1 VSS VIN VOUT VDD inv_PI
X$2 VSS VIN VOUT VDD inv_PI
.ENDS inv_PI_d2

.SUBCKT inv_PI VSS VIN VOUT VDD
M$1 VSS VIN VOUT VSS sg13_lv_nmos L=0.13u W=0.3u AS=0.156p AD=0.156p PS=2.08u
+ PD=2.08u
M$3 VDD VIN VOUT VDD sg13_lv_pmos L=0.13u W=0.45u AS=0.2115p AD=0.2115p
+ PS=2.82u PD=2.82u
.ENDS inv_PI
