* Extracted by KLayout with SG13G2 LVS runset on : 25/01/2026 21:48

.SUBCKT div_freq_x2 VSS CLKIN|CLKOUT VDD
X$1 VDD CLKIN|CLKOUT VSS \$2 inv
X$2 VDD VSS \$2 CLKIN|CLKOUT CLKIN|CLKOUT reg
.ENDS div_freq_x2

.SUBCKT reg VDD VSS D Q CLK
X$4 VDD CLK VSS \$9 inv
M$1 VSS \$5 \$14 VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p
+ PS=1.34u PD=0.74u
M$2 \$14 CLK Q VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p PS=0.74u
+ PD=1.34u
M$3 VSS D \$17 VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p PS=1.34u
+ PD=0.74u
M$4 \$17 \$9 \$5 VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p
+ PS=0.74u PD=1.34u
M$5 VDD \$5 \$20 VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p
+ PS=1.34u PD=0.74u
M$6 \$20 \$9 Q VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p PS=0.74u
+ PD=1.34u
M$7 VDD D \$23 VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p PS=1.34u
+ PD=0.74u
M$8 \$23 CLK \$5 VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p
+ PS=0.74u PD=1.34u
.ENDS reg

.SUBCKT inv VDD VIN VSS VOUT
M$1 VSS VIN VOUT VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$2 VDD VIN VOUT VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
.ENDS inv
